US05427779
8-Hydroxypsoralen (2)
To a suspension of magnesium (0.97 g, 0.04 mol) in dry benzene (75 ml) iodine (10.2 g, 0.04 mol) was added over a period of 1 hour. Then 75 ml of dry benzene was added and the mixture was refluxed for 1 hour. The next day, 8-methoxypsoralen (Sigma Cat. No. M 3501) (4.3 g, 0.02 mol) was added, and after stirring for 15 minutes, the solvent was evaporated under vacuum at 120° C. until the residue was practically dry. It was then further heated at 165° C. for 2 hours. The resulting solid was decomposed with dilute sulphuric acid and filtered. The solid was washed with water, suspended in dilute bisulfite solution, filtered again, washed with water and finally crystallized from dioxane and yielded colourless crystals (3.75 g), m.p. 246° C.

reactant | magnesium | 0.04 mol, 0.97 g | [Mg] | Mg
reactant | 8-methoxypsoralen | COC1=C2C(C=CO2)=CC3=C1OC(=O)C=C3 | C12H8O4
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 0.04 mol, 75 ml, 10.2 g | C1=CC=CC=C1 | C6H6
product | 8-Hydroxypsoralen | 3.75 g | C1=COC=2C1=CC3=C(C2O)OC(=O)C=C3 | C11H6O4
